US07906546B2
A solution of 6.0 g (23 mmol) of (3-bromo-phenylsulfanyl)-acetic acid methyl ester in 50 mL of dichloroethane was treated with 6.2 g (25 mmol) of 3-chloroperbenzoic acid. After 30 min of stirring another 6.2 g (25 mmol) of 3-chloroperbenzoic acid were added, the resulting suspension was stirred overnight at RT and then treated with a 0.5 M aqueous solution of sodium thiosulfate. The phases were separated and the aqueous one extracted twice with diethylether. The combined organic phases were washed with a ca. 1M aqueous NaHCO3 solution, dried over Na2SO4, filtered and evaporated to give 6.3 g (93%) of (3-bromo-benzenesulfonyl)-acetic acid methyl ester as a colorless oil, MS: 312 (MNH4+, 1Br).

reactant | (3-bromo-phenylsulfanyl)-acetic acid methyl ester | 23 mmol, 6.0 g | COC(CSC1=CC(=CC=C1)Br)=O | C9H9BrO2S
reactant | 3-chloroperbenzoic acid | 25 mmol, 6.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloroperbenzoic acid | 25 mmol, 6.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | (3-bromo-benzenesulfonyl)-acetic acid methyl ester | 6.3 g, 93% | COC(CS(=O)(=O)C1=CC(=CC=C1)Br)=O | C9H9BrO4S
